US08106077B2
2-Azido-1,3-dichloro-benzene
A solution of 2,6-dichloroaniline (100 g, 617 mmol) in MTBE (1 L) is added via addition funnel over 30 minutes to commercial hydrogen chloride (600 mL). The white suspension is stirred 15 minutes and is cooled to 0° C. A solution of sodium nitrite (42.5 g, 617 mmol) in water (150 mL) is added dropwise via addition funnel. After stirring at 0° C. for 30 minutes, a solution of sodium azide (40.1 g, 617 mmol) in water (150 mL) is added. After the addition is completed (45 minutes), the mixture is stirred at 5-10° C. for 30 minutes. The reaction mixture is basified (pH 12) with 50% aq. NaOH, and is stirred for 30 more minutes. The phases are separated and the aqueous layer is extracted three times with MTBE. The combined organic layers are dried over magnesium sulfate and filtered. Toluene (1 L) is added to the organic layer and the solution is concentrated under reduced pressure to a volume of 760 mL to yield the title compound (115 g, 100% conversion, 0.8M solution) as a toluene solution. ES/MS m/e 188 (M+1).

reactant | 2,6-dichloroaniline | 617 mmol, 100 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | hydrogen chloride | 600 mL | Cl | ClH
reactant | sodium nitrite | 617 mmol, 42.5 g | N(=O)[O-].[Na+]
reactant | sodium azide | 617 mmol, 40.1 g | [N-]=[N+]=[N-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | MTBE | 1 L | CC(C)(C)OC | C5H12O
solvent | water | 150 mL | O | H2O
solvent | water | 150 mL | O | H2O
product | 2-Azido-1,3-dichloro-benzene | 0.8M, 115 g, 100% | N(=[N+]=[N-])C1=C(C=CC=C1Cl)Cl | C6H3Cl2N3
